US09359338B2
Step 1: Synthesis of phenyl N-(3-chloro-4-cyano-phenyl)carbamate
Dissolve 4-amino-2-chloro-benzonitrile (500 mg, 3.3 mmol) and pyridine (518 mg, 6.6 mmol) in THF (5 mL), cool to 0° C. and add slowly phenyl chloroformate (616 mg, 3.9 mmol). After addition, stir the reaction at room temperature for 2 hrs. TLC (EtOAc:PE=1:3) shows the reaction is complete. Add water, extract with DCM, separate the organic layer. Wash the organic layer with 1M HCl solution, brine sequentially, dry over anhydrous Na2SO4, and concentrate under reduced pressure to give the target compound (820 mg, 91.7%). MS: (M+1): 273.

reactant | 4-amino-2-chloro-benzonitrile | 3.3 mmol, 500 mg | NC1=CC(=C(C#N)C=C1)Cl | C7H5ClN2
reactant | pyridine | 6.6 mmol, 518 mg | N1=CC=CC=C1 | C5H5N
reactant | phenyl chloroformate | 3.9 mmol, 616 mg | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 5 mL | C1CCOC1 | C4H8O
product | phenyl N-(3-chloro-4-cyano-phenyl)carbamate | 820 mg, 91.7% | ClC=1C=C(C=CC1C#N)NC(OC1=CC=CC=C1)=O | C14H9ClN2O2
